US08124610B2
2-fluoro-N-(thiazol-2-yl)-4-(1-(4-(trifluoromethyl)benzyl)-1H-pyrazol-4-ylamino)benzenesulfonamide
4-Bromo-2-fluoro-N-thiazol-2-yl-benzenesulfonamide (0.337 g, 1.00 mmol), 1-(4-Trifluoromethyl-benzyl)-1H-pyrazol-4-ylamine (0.242 g, 1.00 mmol), Tris(dibenzylideneacetone)dipalladium(0) (0.037 g, 0.040 mmol), and 9,9-DIMETHYL-4,5-BIS(DIPHENYLPHOSPHINO)XANTHENE (0.069 g, 0.12 mmol), were mixed in anhydrous N,N-Dimethylacetamide (10 mL, 100 mmol). The solution was sparged with argon for 10 minutes. Sodium tert-butoxide (0.290 g, 3.02 mmol) was added and the reaction was heated in the microwave for 5 minutes at 120° C. The crude reaction was partitioned between 1N HCl and chloroform. The organic phase was separated and the aqueous phase washed a second time with chloroform. The combined organic phase was washed with brine and dried over magnesium sulfate, then evaporated onto celite. The product was purified by column chromatography, chloroform to 10% methanol-chloroform gradient elution. Product fractions were combined and evaporated to a residue. The product was purified by reverse phase HPLC. (Phenomenex 100×21.2 mm 10 micron C18 column. 20 mL/min. Gradient 85% A to 100% B over 25 min. Solvent A: 7800 water/200 acetonitrile/8 TFA.).

reactant | 4-Bromo-2-fluoro-N-thiazol-2-yl-benzenesulfonamide | 1.00 mmol, 0.337 g | BrC1=CC(=C(C=C1)S(=O)(=O)NC=1SC=CN1)F | C9H6BrFN2O2S2
reactant | 1-(4-Trifluoromethyl-benzyl)-1H-pyrazol-4-ylamine | 1.00 mmol, 0.242 g | FC(C1=CC=C(CN2N=CC(=C2)N)C=C1)(F)F | C11H10F3N3
reactant | 9,9-DIMETHYL-4,5-BIS(DIPHENYLPHOSPHINO)XANTHENE | 0.12 mmol, 0.069 g | CC1(C2=CC=CC(=C2OC=2C(=CC=CC12)P(C1=CC=CC=C1)C1=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1)C | C39H32OP2
reactant | N,N-Dimethylacetamide | 100 mmol, 10 mL | CN(C(C)=O)C | C4H9NO
reactant | Sodium tert-butoxide | 3.02 mmol, 0.290 g | CC(C)([O-])C.[Na+]
catalyst | Tris(dibenzylideneacetone)dipalladium(0) | 0.040 mmol, 0.037 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 2-fluoro-N-(thiazol-2-yl)-4-(1-(4-(trifluoromethyl)benzyl)-1H-pyrazol-4-ylamino)benzenesulfonamide | FC1=C(C=CC(=C1)NC=1C=NN(C1)CC1=CC=C(C=C1)C(F)(F)F)S(=O)(=O)NC=1SC=CN1 | C20H15F4N5O2S2
